US05057513
To a solution of 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane (2.5 g) in methylene chloride (80 ml) was added 80% m-chloroperbenzoic acid (3.8 g) at 0° C. After one hour, a saturated aqueous solution (50 ml) of sodium sulfite was added to the solution. The organic layer was washed with brine (50 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (2.37 g).

reactant | 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane | 2.5 g | C1(=CC=CC=C1)CC1CCCCC12SCCNC(C2)=O | C17H23NOS
reactant | m-chloroperbenzoic acid | 3.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | 50 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 2.37 g | C1(=CC=CC=C1)CC1CCCCC12S(CCNC(C2)=O)(=O)=O | C17H23NO3S
